US07427613B2
(rac.)-(1R*,5S*)-9-Methyl-7-oxo-3,9-diazabicyclo[3.3.1]nonane-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (A)
(4-Benzyl-6-ethoxycarbonylmethyl-1-methyl-piperazin-2-yl)acetic acid ethyl ester (Patent WO 92/05174) (71.0 g, 0.196 mol) was dissolved in MeOH (400 mL). TFA (77.8 mL, 1.02 mol) was added and the flask was purged with nitrogen. Pd/C (10%, 50% moisture, 3.6 g) was added. The flask was closed and purged with hydrogen (3×). After 1 day, the mixture was filtered through Celite and washed with MeOH. The solvents were removed under reduced pressure and the foamy residue (92.7 g) was dried under high vacuum. A sol. of tBuOK (117.2 g, 1.04 mol) in toluene (3.07 L) was heated to reflux. A sol. of the crude piperazine formerly obtained, dissolved in THF (300 mL), was added dropwise over 50 min. The black mixture was stirred for 10 further min. and allowed to cool to rt. The mixture was cooled to 0° C. and AcOH (36.6 mL, 0.635 mol) was added. The solvents were removed under reduced pressure. This crude material was suspended in CH2Cl2 (400 mL) and cooled to 0° C. DIPEA (19.1 mL, 112 mmol) was added. A sol. of Boc2O (24.3 g, 113 mmol) in CH2Cl2 (200 mL) was added dropwise. The mixture was stirred for 1 h at 0° C., then 1 h at rt. The mixture was washed with aq. 10% Na2CO3 (2×). The org. extracts were dried over MgSO4, filtered and the solvents were evaporated under reduced pressure. The residue was purified by FC (EtOAc/heptane 1:1→EtOAc). The title compound was obtained as oil (24.5 g, 38%). Rf=0.05 (EtOAc/heptane 1:1) or 0.56 (MeOH/CH2Cl2 1:9). LC-MS: Rt=2.94; ES+: 325.19.

reactant | (4-Benzyl-6-ethoxycarbonylmethyl-1-methyl-piperazin-2-yl)acetic acid ethyl ester | 0.196 mol, 71.0 g | C(C)OC(CC1N(C(CN(C1)CC1=CC=CC=C1)CC(=O)OCC)C)=O | C20H30N2O4
reactant | TFA | 1.02 mol, 77.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tBuOK | 1.04 mol, 117.2 g | C(C)(C)(C)O[K]
reactant | AcOH | 0.635 mol, 36.6 mL | CC(=O)O | C2H4O2
reactant | DIPEA | 112 mmol, 19.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 113 mmol, 24.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 400 mL | CO | CH4O
solvent | toluene | 3.07 L | C1(=CC=CC=C1)C | C7H8
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (rac.)-(1R*,5S*)-9-Methyl-7-oxo-3,9-diazabicyclo[3.3.1]nonane-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C1[C@H]2CN(C[C@@H](CC1=O)N2C)C(=O)OC(C)(C)C | C16H26N2O5
